US07812022B2
Step B: 1-[2-(3-Bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-fluoroethanone
A solution of 2-bromo-1-[2-(3-bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (300 mg, 0.65 mmol, obtained from composite batches), KF (190 mg, 3.27 mmol) in DMA (10 mL) was heated for 3 h at 80° C. Water (25 mL) was added and the aqueous layer was extracted with EtOAc (2×50 mL). The organic layers were combined and purified by LC (2-10% EtOAc in hexanes) to yield the desired product (130 mg, 42%) as a pale yellow glass. ESIMS (M+H)+=401.

reactant | 2-bromo-1-[2-(3-bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone | 0.65 mmol, 300 mg | BrCC(=O)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2)Br | C16H9Br2F3N2O
reactant | KF | 3.27 mmol, 190 mg | [F-].[K+]
reactant | Water | 25 mL | O | H2O
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 1-[2-(3-Bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-fluoroethanone | 130 mg, 42% | BrC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(CF)=O | C16H9BrF4N2O
